US06071928
b) 2-Bromo-4-(trifluoroacetamido)methylanisole
Triethylamine (14.4 g, 142 mmol) was added to a solution of 2-bromo-4-methylaminoanisole (12.3 g, 57 mmol) in dichloromethane (300 ml). The solution was cooled with an ice-acetone bath and trifluoroacetic anhydride (11.9 g, 57 mmol) was added slowly. The mixture was stirred at ambient temperature for 18 hours then washed with water (2×100 ml). The organic layer was separated, dried (MgSO4), filtered and concentrated in vacuo. Chromatography on silica gel, eluting with 30% ethyl acetate in hexane, gave the title compound (12.2 g, 69%); δH (250HHz, CDCl3) 3.88 (3H, s, ArOCH3), 4.42 (2H, d, J 5.9Hz, CH2), 6.87 (1H, d, J 8.4Hz, 6-H), 7.21 (1H, dd, J 8.4, 2.1Hz, 5-H), 7.47 (1H, d, J 2.1Hz, 3-H).

reactant | Triethylamine | 142 mmol, 14.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-4-methylaminoanisole | 57 mmol, 12.3 g | BrC1=C(C=CC(=C1)NC)OC | C8H10BrNO
reactant | trifluoroacetic anhydride | 57 mmol, 11.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 2-Bromo-4-(trifluoroacetamido)methylanisole | 12.2 g, 69% | BrC1=C(C=CC(=C1)CNC(C(F)(F)F)=O)OC | C10H9BrF3NO2
